US09062028B2
Step D. Methyl 4-((tert-butoxycarbonyl)(2,3-dimethylphenyl)amino)butanoate
To a solution of methyl 4-((2,3-dimethylphenyl)amino)butanoate (84 mg, 0.38 mmol) in THF (1.9 mL) was added 50% aq. sodium bicarbonate, followed by a 1 M solution of di-tert-butyl dicarbonate (0.60 mL, 0.6 mmol) in THF. The reaction mixture was partitioned between DCM and water. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound as colorless viscous oil (112 mg, 91%). LCMS, [M+Na]+=344.0.

reactant | methyl 4-((2,3-dimethylphenyl)amino)butanoate | 0.38 mmol, 84 mg | CC1=C(C=CC=C1C)NCCCC(=O)OC | C13H19NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 0.6 mmol, 0.60 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
product | Methyl 4-((tert-butoxycarbonyl)(2,3-dimethylphenyl)amino)butanoate | 112 mg, 91% | C(C)(C)(C)OC(=O)N(CCCC(=O)OC)C1=C(C(=CC=C1)C)C | C18H27NO4
